US03952050
b. (3,3a,8,8a-Tetrahydrocyclopent[a]inden-1[2H]-ylidene) isopropyl methyl ammonium iodide
3,3a,8,8a-Tetrahydro-N-isopropylcyclopent[a]inden-1[2H]-imine (1.4 g) and methyl iodide (3 ml) were kept at room temperature overnight. The resultant solid mass was triturated with ether to give the quaternary salt as a buff solid, m.p. 168°-170°.

reactant | 3,3a,8,8a-Tetrahydro-N-isopropylcyclopent[a]inden-1[2H]-imine | 1.4 g | C(C)(C)N=C1CCC2C1CC=1C=CC=CC21 | C15H19N
reactant | methyl iodide | 3 ml | CI | CH3I
product | (3,3a,8,8a-Tetrahydrocyclopent[a]inden-1[2H]-ylidene) isopropyl methyl ammonium iodide | [I-].C1(CCC2C1CC=1C=CC=CC21)=[N+](C)C(C)C | InChI=1S/C16H22N.HI/c1-11(2)17(3)16-9-8-14-13-7-5-4-6-12(13)10-15(14)16;/h4-7,11,14-15H,8-10H2,1-3H3;1H/q+1;/p-1
